US08193246B2
Step a: Synthesis of Hexadecanoic acid 1-dimethylaminomethyl-2-hexadecanoyloxy-ethyl ester
43.17 g 3-(dimethylamino)-1,2-propanediol were dissolved on 1000 ml dichloromethane. After the addition of 73.3 g triethylamine and 0.01 g 4-dimethylamino pyridine the mixture was cooled down to 0° C. Then 199.18 g hexadecanoic acid chloride, dissolved in 100 ml dichloromethane, were added dropwise. After the addition of another 100 ml dichloromethane the mixture was brought to room temperature and allowed to stir over night. The mixture was filtered and the residue washed with 300 ml dichloromethane. The solvent of the filtrate was removed using a rotary evaporator and the crude product was purified by column chromatography on silica gel (eluent: acetic acid ethyl ester/petrolether 1:1). The product was characterized by 1H-NMR.

reactant | 3-(dimethylamino)-1,2-propanediol | 43.17 g | CN(CC(CO)O)C | C5H13NO2
reactant | triethylamine | 73.3 g | C(C)N(CC)CC | C6H15N
reactant | hexadecanoic acid chloride | 199.18 g | C(CCCCCCCCCCCCCCC)(=O)Cl | C16H31ClO
catalyst | 4-dimethylamino pyridine | 0.01 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 1000 ml | ClCCl | CH2Cl2
product | Hexadecanoic acid 1-dimethylaminomethyl-2-hexadecanoyloxy-ethyl ester | CN(C)CC(COC(CCCCCCCCCCCCCCC)=O)OC(CCCCCCCCCCCCCCC)=O | C37H73NO4
